US06943180B2
To a solution of 5 g (18.5 mmol) of 2-amino-3-phenyl-succinic acid, dimethyl ester hydrochloride in CH2Cl2 (100 mL) was added 7.7 mL (56 mmol) of TEA followed by 6.2 g (22.1 mmol) of trityl chloride. The reaction was stirred at rt for 2 days and then concentrated in vacuo. Et2O was added to the crude residue and the mixture was filtered through a pad of silica gel and concentrated in vacuo to give a colorless oil. The residue was purified by flash column chromatography on silica gel eluted with 3:1 hexanes:Et2O to yield 6 g of 2-(N-tritylamino)-3-phenyl-succinic acid, dimethyl ester as a white solid. The product was a 1.3:1 mixture of diastereomers as judged by 1H-NMR analysis.

reactant | 2-amino-3-phenyl-succinic acid, dimethyl ester hydrochloride | 18.5 mmol, 5 g | Cl.NC(C(=O)OC)C(C(=O)OC)C1=CC=CC=C1
reactant | trityl chloride | 22.1 mmol, 6.2 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)Cl | C19H15Cl
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
product | 2-(N-tritylamino)-3-phenyl-succinic acid, dimethyl ester | 6 g | C(C1=CC=CC=C1)(C1=CC=CC=C1)(C1=CC=CC=C1)NC(C(=O)OC)C(C(=O)OC)C1=CC=CC=C1 | C31H29NO4
